US08420629B2
Step 4. 1-(cyanomethyl)-3-(cyanomethylene)cyclobutanecarbonitrile
To a solution of 1.0 M of potassium tert-butoxide in tetrahydrofuran (2.15 mL) at 0° C. was added dropwise a solution of diethyl cyanomethylphosphonate (0.364 mL, 0.00225 mol) in tetrahydrofuran (4 mL, 0.04 mol). The reaction was warmed to rt and then cooled to 0° C. again. To the reaction mixture was added a solution of 1-(cyanomethyl)-3-oxocyclobutanecarbonitrile (0.274 g, 0.00204 mol) in tetrahydrofuran (2 mL, 0.02 mol). The reaction was allowed to warm up to rt and stirred at rt overnight. After quenching with water, the mixture was extracted with ether. The combined organic layers were washed with water and brine, then dried and evaporated to dryness. The crude mixture was used directly in next step.

reactant | potassium tert-butoxide | 1.0 M | CC(C)([O-])C.[K+]
reactant | diethyl cyanomethylphosphonate | 0.00225 mol, 0.364 mL | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | 1-(cyanomethyl)-3-oxocyclobutanecarbonitrile | 0.00204 mol, 0.274 g | C(#N)CC1(CC(C1)=O)C#N | C7H6N2O
solvent | tetrahydrofuran | 2.15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.02 mol, 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.04 mol, 4 mL | O1CCCC1 | C4H8O
product | 1-(cyanomethyl)-3-(cyanomethylene)cyclobutanecarbonitrile | C(#N)CC1(CC(C1)=CC#N)C#N | C9H7N3
